US05856529
(±)-(trans)-2-(2,3-dihydrobenzofuran-4-yl)cyclopropanemethanamine
A solution of (±)-(trans)- 2-(2,3-dihydrobenzofuran-4-yl)-cyclopropanecarboxaldehyde (2.6 g, 15 mmol), hydroxylamine hydrochloride (3.13 g, 45 mmol), ethanol (60 mL), water (40 mL), and 10N NaOH (4.5 mL, 45 mmol) was heated to reflux for 4 h. The solution was cooled to room temperature, diluted with water and ethyl acetate. The ethyl acetate layer was separated and washed sequentially with H2O and brine. The ethyl acetate extract was dried over K2CO3 and concentrated in vacuo. The residue was dissolved in THF (50 mL) and added dropwise to a -45° C. suspension of LAH (1.06 g, 28 mmol) in THF (100 mL), maintaining the temperature below -40° C. The reaction was warmed to room temperature and stirred for 2 h. The reaction was recooled to -45° C., and 1N HCl (50 mL) was cautiously added dropwise. The cooling bath was removed and the suspension was stirred at room temperature for 30 min. The resulting paste was then diluted with ethyl ether and extracted with 1N HCl. The acid extracts were combined, washed with ethyl ether, made basic with 50% NaOH, and extracted with dichloromethane. The dichloromethane extracts were combined, washed with brine, dried over K2CO3, and concentrated in vacuo to give a clear oil (900 mg, 40%).

reactant | (±)-(trans)- 2-(2,3-dihydrobenzofuran-4-yl)-cyclopropanecarboxaldehyde | 15 mmol, 2.6 g | O1CCC2=C1C=CC=C2[C@H]2[C@@H](C2)C=O | C12H12O2
reactant | hydroxylamine hydrochloride | 45 mmol, 3.13 g | Cl.NO
reactant | NaOH | 45 mmol, 10N, 4.5 mL | [OH-].[Na+]
reactant | LAH | 28 mmol, 1.06 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | HCl | 1N, 50 mL | Cl | ClH
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | 40 mL | O | H2O
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | (±)-(trans)-2-(2,3-dihydrobenzofuran-4-yl)cyclopropanemethanamine | 900 mg, 40% | O1CCC2=C1C=CC=C2[C@H]2[C@@H](C2)CN | C12H15NO
